US07592350B2
8.00 g (50.0 mmol) of tryptamine was dissolved in 150 ml of ethyl acetate and 4.80 ml (52.0 mmol) of n-butyric acid was slowly added. After standing for 4 h at 0° C., the reaction mixture was filtered to give 12.30 g (49.5 mmol) of tryptamine butyrate, which was melted. The melt was heated at 200° C. and kept for 30 min at that temperature. Water formed was removed using a Dean-Stark apparatus. The melt after cooling was mixed with 120 ml of toluene, 23.5 ml (257.7 mmol) of freshly distilled phosphorus oxychloride was added and the reaction mixture was refluxed for 4 h. The solution was evaporated in vacuum and the dark oil was mixed with 20% solution of acetic acid (3×50 ml). The solid was filtered off and the aqueous solution was made alkaline with 25% ammonium hydroxide under cooling and extracted with dichloromethane (3×50 ml). The combined organic phases were dried over sodium sulfate, the drying agent was filtered off and the filtrate was evaporated to give the title compound, which was purified by column chromatography (silica gel, dichloromethane/methanol, 95:5).

reactant | tryptamine | 50.0 mmol, 8.00 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | n-butyric acid | 52.0 mmol, 4.80 ml | C(CCC)(=O)O | C4H8O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | tryptamine butyrate | 49.5 mmol, 12.30 g | C(CCC)(=O)O.NCCC1=CNC2=CC=CC=C12 | InChI=1S/C10H12N2.C4H8O2/c11-6-5-8-7-12-10-4-2-1-3-9(8)10;1-2-3-4(5)6/h1-4,7,12H,5-6,11H2;2-3H2,1H3,(H,5,6)
